US06229011B1
Preparation of N-[(4-amino-2-chlorophenyl)carbonyl]-4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine
A solution of N-[(4-amino-2-chlorophenyl)carbonyl]-4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester (66 mg, 0.126 mmol) in THF (3 mL) was treated with a solution of LiOH.H2O (20 mg, 0.48 mmol) in water (0.5 mL) and the mixture was stirred over night at room temperature. Acetic acid (0.5 mL) was added and the mixture was purified directly by RP-HPLC (5-95-35-214) to give 40 mg of a white solid. HRMS: (C23H18Cl3N3O4): Obs. Mass 506.0461. Calcd. Mass 506.0441 (M+H).

reactant | N-[(4-amino-2-chlorophenyl)carbonyl]-4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester | 0.126 mmol, 66 mg | COC([C@@H](NC(=O)C1=C(C=C(C=C1)N)Cl)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C24H20Cl3N3O4
reactant | LiOH.H2O | 0.48 mmol, 20 mg | O[Li].O
reactant | Acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | N-[(4-amino-2-chlorophenyl)carbonyl]-4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine | 40 mg | NC1=CC(=C(C=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)C(=O)O)Cl | C23H18Cl3N3O4
